US06043243
1-ethyl-2-(4-geranyloxy-3-methoxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 4-geranyloxy-3-methoxybenzoic acid(1.52 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 1.63 g(79%) of the aimed compound.

reactant | 4-geranyloxy-3-methoxybenzoic acid | 1.52 g | C(\C=C(/C)\CCC=C(C)C)OC1=C(C=C(C(=O)O)C=C1)OC | C18H24O4
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(4-geranyloxy-3-methoxybenzoylaminomethyl)pyrrolidine | 1.63 g, 79% | C(C)N1C(CCC1)CNC(C1=CC(=C(C=C1)OC\C=C(/C)\CCC=C(C)C)OC)=O | C25H38N2O3
